US08729102B2
L) Diastereomer of N-[(1S)-2-({6-[6-(cyclopropylmethoxy)-2-methyl-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]acetamide
A mixture of (bromomethyl)cyclopropane (177 mg), diastereomer of N-[(1S)-2-{[6-(6-hydroxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)pyridin-3-yl]oxy}-1-methylethyl]acetamide (150 mg) and potassium carbonate (72.7 mg) in DMF (3 mL) was stirred at 80° C. for 3 hr. After cooling to room temperature, the mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The separated organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (NH, hexane/ethyl acetate) to give the title compound (150 mg).

reactant | (bromomethyl)cyclopropane | 177 mg | BrCC1CC1 | C4H7Br
reactant | N-[(1S)-2-{[6-(6-hydroxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)pyridin-3-yl]oxy}-1-methylethyl]acetamide | 150 mg | OC1=CC2=C(CC(O2)(C)C2=CC=C(C=N2)OC[C@H](C)NC(C)=O)C=C1 | C19H22N2O4
reactant | potassium carbonate | 72.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[(1S)-2-({6-[6-(cyclopropylmethoxy)-2-methyl-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]acetamide | 150 mg | C1(CC1)COC1=CC2=C(CC(O2)(C)C2=CC=C(C=N2)OC[C@H](C)NC(C)=O)C=C1 | C23H28N2O4
